US07531585B2
Synthesis of sodium diphenylphosphinate
In 2.18 g (10.0 mmol) of diphenylphosphinic acid (manufactured by Aldrich Inc., Product No. 10, 852-9), 20 mL (10.0 mmol) of 0.5 N sodium hydroxide was added, stirred at room temperature for 10 minutes, then water was distilled off under reduced pressure. The obtained solid was washed with a small amount of methanol and dried to obtain 2.35 g (yield 98%) of the aimed product as white crystal. Decomposition temperature: 469° C.

reactant | diphenylphosphinic acid | 10.0 mmol, 2.18 g | C1(=CC=CC=C1)P(O)(=O)C1=CC=CC=C1 | C12H11O2P
reactant | sodium hydroxide | 10.0 mmol, 0.5 N, 20 mL | [OH-].[Na+]
product | sodium diphenylphosphinate | 2.35 g, yield 98% | C1(=CC=CC=C1)P([O-])(=O)C1=CC=CC=C1.[Na+] | InChI=1S/C12H11O2P.Na/c13-15(14,11-7-3-1-4-8-11)12-9-5-2-6-10-12;/h1-10H,(H,13,14);/q;+1/p-1
